US03932429
0.52 g of cyclobutylcarbonyl chloride is added to a mixture of 0.43 g of 1-(3-hydroxyphenyl)-6-azabicyclo[3,2,1]octane, 0.51 g of triethylamine and 8 ml of dimethylformamide. The mixture is stirred at room temperature for 15 hours. Then, water is added to the mixture, and the aqueous mixture is extracted with chloroform. The chloroform extract is washed with water, dried and then evaporated to remove solvent. The residue thus obtained is dissolved in 25 ml of tetrahydrofuran. 0.6 g of lithium aluminium hydride is added to the solution, and the solution is refluxed for 3 hours under heating. After cooling, water is added to the reaction solution to decompose lithium aluminium hydride. The reaction solution is acidified with hydrochloric acid. Then, the reaction solution is made alkaline with aqueous ammonia and extracted with chloroform. The chloroform extract is washed with water, dried and then evaporated to remove solvent. The residue is dissolved in 5 ml of chloroform. The chloroform solution is poured onto the column of 30 g of silica gel. Then, the column is eluted with a mixture of 500 ml of chloroform and 25 ml of methanol, and the effluent is evaporated to remove solvent. The residue thus obtained is distilled under reduced pressure, whereby 0.42 g of 1-(3-hydroxyphenyl)-6-cyclobutylmethyl-6-azabicyclo[3,2,1]octane is obtained as an viscous oil boiling at 240°C(bath temperature)/0.1 mmHg.

reactant | cyclobutylcarbonyl chloride | 0.52 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 1-(3-hydroxyphenyl)-6-azabicyclo[3,2,1]octane | 0.43 g | OC=1C=C(C=CC1)C12CCCC(NC1)C2 | C13H17NO
reactant | lithium aluminium hydride | 0.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.51 g | C(C)N(CC)CC | C6H15N
product | 1-(3-hydroxyphenyl)-6-cyclobutylmethyl-6-azabicyclo[3,2,1]octane | 0.42 g | OC=1C=C(C=CC1)C12CCCC(N(C1)CC1CCC1)C2 | C18H25NO
